### PR TITLE
[Merged by Bors] - feat: Add exists_ideal_in_class_of_norm_le

### PR DESCRIPTION
**Pull request by xroblot**
Prove that each class of the classgroup of a number field contains an integral ideal of small norm. 

---

- [x] depends on: #9613 
- [x] depends on: #9804
- [x] depends on: #9836 
- [x] depends on: #9837 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
If it's easy can you explicitly add the fact that if the Minkowski bound is less than `2` then the ring is principal?

**Comment by xroblot** [comment]
> If it's easy can you explicitly add the fact that if the Minkowski bound is less than `2` then the ring is principal?

I added 
```lean
theorem classNumber_eq_one_of_abs_discr_lt
    (h : |discr K| < (2 * (π / 4) ^ NrComplexPlaces K *
      ((finrank ℚ K) ^ (finrank ℚ K) / (finrank ℚ K).factorial)) ^ 2) :
    classNumber K = 1 := by
```

**Comment by riccardobrasca** [comment]
> > If it's easy can you explicitly add the fact that if the Minkowski bound is less than `2` then the ring is principal?
> 
> I added
> 
> ```lean
> theorem classNumber_eq_one_of_abs_discr_lt
>     (h : |discr K| < (2 * (π / 4) ^ NrComplexPlaces K *
>       ((finrank ℚ K) ^ (finrank ℚ K) / (finrank ℚ K).factorial)) ^ 2) :
>     classNumber K = 1 := by
> ```

When mathematically trivial consequences are trivial even in Lean is always a good sign!

**Comment by riccardobrasca** [comment]
@xroblot what is the status of this?

**Comment by xroblot** [comment]
> @xroblot what is the status of this?

I am going to update it with the results of #9210 and fix it so that it compiles. There are still some pieces that need additional work before they find their place in `Mathlib` (basically everything in the file `Sandbox.lean`). The two points are the most important: 
- First, I think it makes sense to generalise the results of `CanonicalEmbedding` to fractional ideals and not just integral ideals (as it is the case at the moment in this PR). For this, I opened #9613.
- Second, I need to add some `Module.Free` and `Module.Finite` instances for ideals of number fields that surely fit in a larger scheme. I'll open soon a thread on Zulip to discuss that.

**Comment by riccardobrasca** [comment]
> > @xroblot what is the status of this?
> 
> I am going to update it with the results of #9210 and fix it so that it compiles. There are still some pieces that need additional work before they find their place in `Mathlib` (basically everything in the file `Sandbox.lean`). The two points are the most important:
> 
>     * First, I think it makes sense to generalise the results of `CanonicalEmbedding` to fractional ideals and not just integral ideals (as it is the case at the moment in this PR). For this, I opened [feat: Generalize absNorm to fractional ideals #9613](https://github.com/leanprover-community/mathlib4/pull/9613).
> 
>     * Second, I need to add some `Module.Free` and `Module.Finite` instances for ideals of number fields that surely fit in a larger scheme. I'll open soon a thread on Zulip to discuss that.

I've just reviewed #9613, it is almost ready.

The fact that (fractional) ideals are free should follow immediately once we know that they're finite (we know that being torsion free and finite implies free).  And finiteness should be very easy, these rings are noetherian. Am I missing something?

**Comment by xroblot** [comment]
> > > @xroblot what is the status of this?
> > 
> > 
> > I am going to update it with the results of #9210 and fix it so that it compiles. There are still some pieces that need additional work before they find their place in `Mathlib` (basically everything in the file `Sandbox.lean`). The two points are the most important:
> > ```
> > * First, I think it makes sense to generalise the results of `CanonicalEmbedding` to fractional ideals and not just integral ideals (as it is the case at the moment in this PR). For this, I opened [feat: Generalize absNorm to fractional ideals #9613](https://github.com/leanprover-community/mathlib4/pull/9613).
> > 
> > * Second, I need to add some `Module.Free` and `Module.Finite` instances for ideals of number fields that surely fit in a larger scheme. I'll open soon a thread on Zulip to discuss that.
> > ```
> 
> I've just reviewed #9613, it is almost ready.

Thanks. I'll have a look after I am done with the merge.

> The fact that (fractional) ideals are free should follow immediately once we know that they're finite (we know that being torsion free and finite implies free). And finiteness should be very easy, these rings are noetherian. Am I missing something?

No, you're right. I was not clear: it is indeed direct to see that ideals of a number field satisfy the instances that I need, what I am not sure about is if I should just add the instances for number fields or for a wider situation (and in this case, what situation?). I will probably need to add at some point an `Ideal` file in the number field folder for some results specific to (fractional) ideals of number fields. If you think that having the instances only in the specific case of (fractional) ideals of number fields is good enough, then it will be easy. Otherwise, I think some discussion will be necessary. 

I am sorry if this is a bit vague, hopefully, it will become a bit clearer once I find the time to write things done more properly.

**Comment by xroblot** [comment]
For example, right now, I am using the following
```lean
import Mathlib.LinearAlgebra.FreeModule.PID
import Mathlib.RingTheory.DedekindDomain.Basic


section Ideal

open Module

variable {R S : Type*} [CommRing R] [IsDomain R] [IsPrincipalIdealRing R] [CommRing S] [IsDomain S]
  [Algebra R S] [Module.Free R S] [Module.Finite R S] (I : Ideal S)

instance : Module.Free R I := by
  by_cases hI : I = ⊥
  · have : Subsingleton I := Submodule.subsingleton_iff_eq_bot.mpr hI
    exact Module.Free.of_subsingleton R I
  · exact Free.of_basis (I.selfBasis (Free.chooseBasis R S) hI)

instance : Module.Finite R I := by
  by_cases hI : I = ⊥
  · have : Subsingleton I := Submodule.subsingleton_iff_eq_bot.mpr hI
    exact IsNoetherian.finite R ↥I
  · exact Finite.of_basis (I.selfBasis (Free.chooseBasis R S) hI)

end Ideal
```

**Comment by riccardobrasca** [comment]
Of course we can think about the most general situation, but since the case you need (that is already mathematically interesting) if easy we can just add the instances and think about crazy generalizations later.

**Comment by riccardobrasca** [comment]
@xroblot I would like to test your branch in the FLTRegular project and for some reason I need the latest mathlib, so I am merging master here.

**Comment by riccardobrasca** [comment]
> @xroblot I would like to test your branch in the FLTRegular project and for some reason I need the latest mathlib, so I am merging master here.

Sorry, ignore my comment.

**Comment by xroblot** [comment]
!bench

File: Mathlib/LinearAlgebra/Matrix/Basis.lean [hunk 1]
```diff
@@ -165,6 +165,16 @@ def toMatrixEquiv [Fintype ι] (e : Basis ι R M) : (ι → M) ≃ₗ[R] Matrix
       LinearEquiv.apply_symm_apply]
 #align basis.to_matrix_equiv Basis.toMatrixEquiv
 
+variable (R₂) in
+theorem restrictScalars_toMatrix [Fintype ι] [DecidableEq ι] {S : Type*} [CommRing S] [Nontrivial S]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/Basis.lean:169]: Do you really need `Nontrivial S` here? It comes from [Basis.restrictScalars](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basis.html#Basis.restrictScalars), that I think doesn't really need it: if `S` is trivial and `M` is an `S`-module (hence `M = 0)` you can surely produce a basis of any submodule of `M`.

Not sure if it is worth to do it here.

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean [hunk 2]
```diff
@@ -45,6 +45,52 @@ theorem classNumber_eq_one_iff : classNumber K = 1 ↔ IsPrincipalIdealRing (rin
...
+  · rw [← FractionalIdeal.absNorm_span_singleton (𝓞 K), Algebra.linearMap_apply,
+      ← FractionalIdeal.coeIdeal_span_singleton, FractionalIdeal.coeIdeal_absNorm, hI, map_mul,
+      Nat.cast_mul, Rat.cast_mul, show Ideal.absNorm I₀ = Ideal.absNorm (I : Ideal (𝓞 K)) by rfl,
+      Rat.cast_coe_nat, Rat.cast_coe_nat, FractionalIdeal.coe_mk0,
+      FractionalIdeal.coeIdeal_absNorm, Rat.cast_coe_nat, mul_div_assoc, mul_assoc, mul_assoc]
+      at h_nm
+    refine le_of_mul_le_mul_of_pos_left h_nm ?_
+    exact Nat.cast_pos.mpr <| Nat.pos_of_ne_zero <| Ideal.absNorm_ne_zero_of_nonZeroDivisors J
+
+theorem classNumber_eq_one_of_abs_discr_lt
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/ClassNumber.lean:77]: Can you add the explicit fact that it is a PID?

**Review by riccardobrasca — APPROVED** [review]
This is really great, thanks!

bors d+

File: Mathlib/LinearAlgebra/Matrix/Basis.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/Basis.lean:169]: Yes, you are right. I'll put that on my TODO list since I am the one who added `Basis.restrictScalars`

File: Mathlib/NumberTheory/NumberField/ClassNumber.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean]: I changed the statement to 
```lean
theorem _root_.RingOfIntegers.isPrincipalIdealRing_of_abs_discr_lt
    (h : |discr K| < (2 * (π / 4) ^ NrComplexPlaces K *
      ((finrank ℚ K) ^ (finrank ℚ K) / (finrank ℚ K).factorial)) ^ 2) :
    IsPrincipalIdealRing (ringOfIntegers K) := by
```

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/ClassNumber.lean]: Great!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
